US04598160
4,8,12-Trimethyltridec-2-yn-1,4-diol
Into a 2-liter, three-neck, round-bottom flask fitted with a mechanical stirrer, a reflux condenser, and an addition funnel was added 210 g (3.60 mol) of finely powdered potassium hydroxide and 500 ml of anhydrous tetrahydrofuran. The resulting reaction mixture was heated to reflux and then 30.0 g (0.54 mol) of propargyl alcohol was slowly added over a 30 minute period with rapid stirring. The mixture was refluxed for 3 hours before 100 g (0.51 mol) of hexahydropseudoionone in 140 ml of tetrahydrofuran was slowly added over a 2-hour period. After an additional 2 hours at reflux, the reaction was cooled to 0° C. and poured onto 1000 g of ice and 360 g of concentrated sulfuric acid with efficient mixing. The resulting aqueous layer was rinsed with 3×100 ml of ether and the combined organic layers were rinsed with 50 ml of water, 3×50 ml of saturated aqueous sodium bicarbonate, and 50 ml of brine. The resulting ethereal solution was dried with 50 g of magnesium sulfate, and the solvent was removed at aspirator pressure with the aid of a rotary evaporator, leaving 110 g of crude product. Vacuum distillation at 40 μHg and 140° C. afforded 92 g (73%) of pure product, i.e. 4,8,12-trimethyltridec-2-yn-1,4-diol.

reactant | potassium hydroxide | [OH-].[K+]
reactant | propargyl alcohol | 0.54 mol, 30.0 g | C(C#C)O | C3H4O
reactant | hexahydropseudoionone | 0.51 mol, 100 g | CC(C)CCCC(C)CCCC(=O)C | C13H26O
reactant | sulfuric acid | 360 g | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4,8,12-Trimethyltridec-2-yn-1,4-diol | 92 g, 73% | CC(C#CCO)(CCCC(CCCC(C)C)C)O | C16H30O2
